Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:8]([H:9])[O:10][H:11].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[O:10][H:11],-3.55771176931
[C:1]#[C:2][H:3].[C:4](#[C:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[C:1]=[C:2]([H:3])[C:4](=[C:5])[O:6][C:7]([H:8])([H:9])[H:10],-2.3514265975
[C:1][C:2]([H:3])([H:4])[O:5][C:6][O:7][H:8]>>[C:1].[C:2]([H:3])([H:4])[O:5][C:6][O:7][H:8],3.9320505
[O:1]=[C:2]([H:3])/[C:4]([O:5][H:6])=[C:7](\[H:8])[C:9][H:10]>>[C:7]([H:8])#[C:9][H:10].[O:1]=[C:2]([H:3])[C:4][O:5][H:6],1.64450978479
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:1][C:2],10.61096502
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[H:9]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8].[H:9],1.9455399864200005
[H:1][C:2]#[C:3][O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[H:10].[H:1][C:2]#[C:3][O:4][C:5]#[C:6][C:7]([H:8])[H:9],4.07317687768
[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-1.40714364618
[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1][C:2]=[C:3]([H:4])[C:5][H:6]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-7.471606643139999
[H:3].[O:1]=[C:2]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.03627528024
[O:1]=[C:2]([H:3])[C:4]([O:5][C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12]>>[C:6]([H:7])([H:8])[H:9].[O:1]=[C:2]([H:3])[C:4](=[O:5])[C:10]([H:11])[H:12],2.89378401403
[O:1]=[C:2]([C:3]([H:4])[H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])[H:5].[O:1]=[C:2][C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],5.50096400477
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([C:8]([H:9])[H:10])=[C:11]([H:12])[H:13]>>[C:7](=[C:8]([H:9])[H:10])=[C:11]([H:12])[H:13].[H:1][C:2][O:3][C:4]([H:5])[H:6],2.19429073966
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14],4.60824523246
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13]>>[C:10]=[C:11]([H:12])[H:13].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][H:9],7.131798284299999
[C:8]([H:9])[H:10].[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][H:7]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])[H:10],-5.64882778835
[H:1][C:2]([H:3])=[C:4]=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:6]([H:7])([H:8])[H:9].[H:1][C:2]([H:3])[C:4]#[C:5][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],3.53657101856
[C:1]=[C:2]1[O:3][C:4]([O:5][H:6])=[C:7]1[H:8]>>[C:1]#[C:2][C:7]([C:4](=[O:3])[O:5][H:6])[H:8],-1.70126250717
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:6]([H:7])([H:8])=[C:9]([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])[H:5],1.2031867567
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][H:13]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:12][H:13].[H:11],1.63131904092
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:4],4.10576639825
[H:1]/[C:2]([C:3]([H:4])([H:5])[H:6])=[C:7](/[H:8])[C:10]([H:11])([H:12])[C:13][C:14]([H:15])([H:16])[H:17].[H:9]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13][C:14]([H:15])([H:16])[H:17],-2.07278552208
[C:6]([H:7])#[C:8][O:9].[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[O:9],-1.57750175987
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]=[O:3],1.54664405638
[C:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])[O:10][H:11]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[H:7].[C:8]([H:9])[O:10][H:11],3.4626153759800005
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])[C:4]#[C:5][H:6],4.233805520330002
[H:1][C:2]([H:3])=[C:4]1[C:5]([H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]1([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])=[C:7]=[C:12]([H:13])[H:14])[C:8]([H:9])([H:10])[H:11],0.21196050000100006
[H:1][O:2][O:3][C:4]([H:5])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:6]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.90240197918
